US07608633B2
E. tert-Butyl-1-[2-hydroxy-3-(4-octylphenoxy)propyl]pyrrole-2-carboxylate
0.150 g (0.318 mmol) tert-butyl-1-[2-acetoxy-3-(4-octylphenoxy)propyl]pyrrole-2-carboxylate is dissolved in 10 ml absolute methanol, mixed with 1.26 ml (0.630 mmol) of a 0.5M sodium methanolate solution and stirred at room temperature for 15 min. Following concentration to half the volume on the rotary evaporator, the batch is diluted with diethyl ether. Washing of the organic phase with semi-saturated and with saturated NaCl solution, drying on sodium sulfate, filtration and reconcentration on the rotary evaporator yield the product as a yellowish oil.

reactant | tert-butyl-1-[2-acetoxy-3-(4-octylphenoxy)propyl]pyrrole-2-carboxylate | 0.318 mmol, 0.150 g | C(C)(C)(C)OC(=O)C=1N(C=CC1)CC(COC1=CC=C(C=C1)CCCCCCCC)OC(C)=O | C28H41NO5
reactant | sodium methanolate | 0.5M | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | tert-Butyl-1-[2-hydroxy-3-(4-octylphenoxy)propyl]pyrrole-2-carboxylate | C(C)(C)(C)OC(=O)C=1N(C=CC1)CC(COC1=CC=C(C=C1)CCCCCCCC)O | C26H39NO4
